US04529800
157.6 g (1 mole) of 2-chloro-6-ethoxy-pyridine were slowly added over 45 minutes with stirring to a mixture of 190 ml of concentrated sulfuric acid, 190 ml of 24% oleum and 100 ml of 97% nitric acid while keeping the reaction temperature between 20° and 40° C. with cooling and the mixture was allowed to stand for 5 hours while the temperature returned to room temperature. The mixture was cooled to 0° C. and filtered with a glass frit filter. The solid product was suspended in a mixture of 100 g of potassium carbonate and 250 ml of water and the suspension was stirred for 3 hours at 30° C. and was vacuum filtered. The product was washed with water and dried at 40° C. to obtain 192 g (93% yield) of 2-chloro-3-nitro-6-ethoxy-pyridine with a purity of 98%.

reactant | 2-chloro-6-ethoxy-pyridine | 1 mole, 157.6 g | ClC1=NC(=CC=C1)OCC | C7H8ClNO
reactant | sulfuric acid | 190 ml | S(O)(O)(=O)=O | H2O4S
reactant | oleum | 190 ml | OS(=O)(=O)O.O=S(=O)=O
reactant | nitric acid | 100 ml | [N+](=O)(O)[O-] | HNO3
product | 2-chloro-3-nitro-6-ethoxy-pyridine | 192 g, 93% yield | ClC1=NC(=CC=C1[N+](=O)[O-])OCC | C7H7ClN2O3
